US07371862B2
To a solution of 5-(1H-pyrrolo[2,3-b]pyridin-3-ylmethylene)-2-thioxo-1,3-thiazolidin-4-one (8 g, 30.6 mmol) in 12.6% aq. NaOH (12 mL) and methanol (80 mL), methyl iodide (2.25 mL, 36 mmol) was added and the reaction mixture stirred at RT for 4 h. Most of the solvent was distilled off and the precipitate was filtered and washed first with water, then with diethylether. The washings were concentrated and extracted with dichloromethane, dried over sodium sulphate and joined to the first solid crop. The whole crop was suspended in methanol, stirred 30′, filtered and dried to yield 2-(methylthio)-5-(1H-pyrrolo[2,3-b]pyridin-3-ylmethylene)-1,3-thiazol-4(5H)-one as a yellow solid (8.15 g, 29.5 mmol, 96%).

reactant | 5-(1H-pyrrolo[2,3-b]pyridin-3-ylmethylene)-2-thioxo-1,3-thiazolidin-4-one | 30.6 mmol, 8 g | N1C=C(C=2C1=NC=CC2)C=C2C(NC(S2)=S)=O | C11H7N3OS2
reactant | methyl iodide | 36 mmol, 2.25 mL | CI | CH3I
solvent | NaOH | 12 mL | [OH-].[Na+]
solvent | methanol | 80 mL | CO | CH4O
product | 2-(methylthio)-5-(1H-pyrrolo[2,3-b]pyridin-3-ylmethylene)-1,3-thiazol-4(5H)-one | 29.5 mmol, 8.15 g, 96% | CSC=1SC(C(N1)=O)=CC1=CNC2=NC=CC=C21 | C12H9N3OS2
